US06548448B2
While cooling a solution of 3.00 g (0.00929 mol) of 1,1,2-tribromo-2-(2-hydroxyethyl)cyclopropane in methylene chloride with 0.901 ml (0.0111 mol) pyridine to 0° C., 1.18 ml (0.00929 mol) of benzene sulfonyl chloride was added dropwise via pipet. Allowed to warm to room temperature. After 3 days, water was added. The resulting mixture was transferred to a separatory funnel and the phases were separated. The organic layer was dried over MgSO4 and filtered. The solvent was removed from the filtrate in vacuo to yield 3.10 g of 80% pure 1,1,2-tribromo-2-(2-benzenesulfonyloxyethyl)cyclopropane as an oil.

reactant | 1,1,2-tribromo-2-(2-hydroxyethyl)cyclopropane | 0.00929 mol, 3.00 g | BrC1(C(C1)(CCO)Br)Br | C5H7Br3O
reactant | pyridine | 0.0111 mol, 0.901 ml | N1=CC=CC=C1 | C5H5N
reactant | benzene sulfonyl chloride | 0.00929 mol, 1.18 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,1,2-tribromo-2-(2-benzenesulfonyloxyethyl)cyclopropane | 3.10 g, 80% | BrC1(C(C1)(CCOS(=O)(=O)C1=CC=CC=C1)Br)Br | C11H11Br3O3S
